US07098212B2
5-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-5-oxo-pentanoic acid ethyl ester
To a solution of (2-chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.10 g, 0.35 mmol) in 2-butanone (1 mL) was added potassium carbonate (0.13 g, 0.90 mmol), potassium iodide (0.065 g, 0.39 mmol) and 5-(5-chloro-2-hydroxy-phenyl)-5-oxo-pentanoic acid ethyl ester (0.11 g, 0.39 mmol). The reaction was stirred at 60° C. for 12 hours, then cooled and concentrated. Chromatography on silica gel gave the title compound (0.089 g).

reactant | 2-chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.35 mmol, 0.10 g | ClCC(=O)N1C(CN(C(C1)C)CC1=CC=C(C=C1)F)C | C15H20ClFN2O
reactant | potassium carbonate | 0.90 mmol, 0.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.39 mmol, 0.065 g | [I-].[K+]
reactant | 5-(5-chloro-2-hydroxy-phenyl)-5-oxo-pentanoic acid ethyl ester | 0.39 mmol, 0.11 g | C(C)OC(CCCC(=O)C1=C(C=CC(=C1)Cl)O)=O | C13H15ClO4
solvent | 2-butanone | 1 mL | CC(CC)=O | C4H8O
product | 5-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-5-oxo-pentanoic acid ethyl ester | 0.089 g | C(C)OC(CCCC(=O)C1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C28H34ClFN2O5
